US09062070B2
3-Hydroxymethyl-2-methyl phenol (113.9 g, 824.0 mmol) was dissolved in a mixture of acetonitrile (850 mL) and trifluoroacetic acid (750.0 mL, 9.735 mmol) in a 3-neck 5-L flask under nitrogen. The reaction mixture was cooled to −33° C. N-bromosuccinimide (141 g, 791 mmol) was added over 15 minutes, with the temperature during addition in the range of −35 to −33° C. The reaction mixture was allowed to stir for an additional 15 min during which time the temperature decreased to −40° C. The cooling bath was removed, and potassium carbonate (741.0 g, 5.358 mmol) diluted with water to a total of 1.0 L was added. Off-gassing was observed, and the temperature increased to 25° C. MTBE (1.5 L) was added, and the reaction mixture was transferred to a reparatory funnel. The layers were separated. The aqueous layer was diluted with water (500 mL) and extracted with MTBE (1 L)+EtOAc (500 mL), and then MTBE (500 mL)+EtOAc (250 mL). The combined organic layers were washed with water (240 mL) and dried over sodium sulfate. The sodium sulfate was removed by filtration, washed with additional MTBE and concentrated under reduced pressure. MTBE (684 mL, 2 volumes) was added, and the suspension was heated to 40° C. to produce a homogeneous solution. The solution was allowed to cool to room temperature. Six volumes of heptane were added, and the suspension was stirred overnight. The suspension was filtered, and the solids were washed with 4:1 heptane:MTBE (500 mL), followed by heptane (500 mL). The solid was dried under vacuum, providing 4-bromo-3-hydroxymethyl-2-methyl phenol.

reactant | 3-Hydroxymethyl-2-methyl phenol | 824.0 mmol, 113.9 g | OCC=1C(=C(C=CC1)O)C | C8H10O2
reactant | trifluoroacetic acid | 9.735 mmol, 750.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-bromosuccinimide | 791 mmol, 141 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium carbonate | 5.358 mmol, 741.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 850 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | heptane | CCCCCCC | C7H16
solvent | MTBE | 1.5 L | CC(C)(C)OC | C5H12O
product | 4-bromo-3-hydroxymethyl-2-methyl phenol | BrC1=C(C(=C(C=C1)O)C)CO | C8H9BrO2
